US07189853B2
In U.S. Pat. No. 5,614,632, montelukast is prepared by condensing 1-(mercaptomethyl)cyclopropaneacetic acid then condensation with 2-(2-(3(S)-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)-3-methanesulfonyloxypropyl)phenyl)-2-propanol compound to afford Montelukast. It is further converted to its corresponding sodium salt via dicyclohexyl amine salt.

reactant | 1-(mercaptomethyl)cyclopropaneacetic acid | SCC1(CC1)CC(=O)O | C6H10O2S
reactant | 2-(2-(3(S)-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)-3-methanesulfonyloxypropyl)phenyl)-2-propanol | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=CC1)[C@H](CCC1=C(C=CC=C1)C(C)(C)O)OS(=O)(=O)C | C30H30ClNO4S
product | Montelukast | CC(C)(C=1C=CC=CC1CC[C@H](C=2C=CC=C(C2)/C=C/C=3C=CC=4C=CC(=CC4N3)Cl)SCC5(CC5)CC(=O)O)O | C35H36ClNO3S
